US06143743
Part E. A solution of 4-amino-3-chlorophenol hydrochloride (18.6 g, 103 mmol) and sodium acetate (18.6 g, 227 mmol) in glacial acetic acid (200 mL) was heated to gentle reflux for 12 hours, then cooled and poured into 4 volumes water. This was neutralized with portionwise addition of sodium bicarbonate, and the resulting mixture was extracted with ethyl acetate (2×500 mL). The extracts were washed with brine, combined, dried over magnesium sulfate, filtered and evaporated. The resulting solid was triturated with warm ether; filtration and vacuum drying gave 4-acetamido-3-chlorophenol (16.1 g, 86.7 mmol, 84%). m.p. 128-129° C. TLC RF 0.14 (50:50 ethyl acetate-hexane). 1H NMR (300 MHz, 4:1 CDCl3.CD3OD): d 7.66 (1H, d, J=8.8 Hz), 6.88 (1H, d, J=1.7 m z Hz), 6.74 (1H, dd, J=8.8, 1.7 Hz), 2.19 (3H, s). MS(H2O-GC/MS): m/e 186 (100).

reactant | 4-amino-3-chlorophenol hydrochloride | 103 mmol, 18.6 g | Cl.NC1=C(C=C(C=C1)O)Cl
reactant | sodium acetate | 227 mmol, 18.6 g | C(C)(=O)[O-].[Na+]
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
product | 4-acetamido-3-chlorophenol | 86.7 mmol, 16.1 g, 84% | C(C)(=O)NC1=C(C=C(C=C1)O)Cl | C8H8ClNO2
